US07902200B2
3-Chloro-2,4-difluoro-N-(2-hydroxyethyl)-N-methyl-benzamide
3-Chloro-2,4-difluorobenzoylchloride (CAS no. 157373-00-7) (211 mg, 1 mmol) in DCM (1 mL) was added to a stirred solution of 2-(methylamino)ethanol (83 mg, 1.1 mmol) in a mixture of DCM (1 mL) and 10% sodium hydroxide solution (1 mL) at 0° C. The mixture was warmed to room temperature and stirred for approximately 4 hours. The two layers were separated and the aqueous layer was extracted with DCM (3×30 mL). The organic layers were combined, dried (MgSO4), filtered and evaporated to afford the product (180 mg, 61%). 1H NMR δ (400 MHz, CDCl3): 3.01 (s, 3H), 3.37 (t, 1H), 3.74 (t, 2H), 3.92 (t, 2H), 7.06 (td, 1H), 7.28-7.37 (m, 1H).

reactant | 3-Chloro-2,4-difluorobenzoylchloride | ClC=1C(=C(C(=O)Cl)C=CC1F)F | C7H2Cl2F2O
reactant | 2-(methylamino)ethanol | 1.1 mmol, 83 mg | CNCCO | C3H9NO
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | sodium hydroxide | 1 mL | [OH-].[Na+]
product | 3-Chloro-2,4-difluoro-N-(2-hydroxyethyl)-N-methyl-benzamide | 180 mg, 61% | ClC=1C(=C(C(=O)N(C)CCO)C=CC1F)F | C10H10ClF2NO2
